US07923561B2
4-Fluoro-N-[2-((R)-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide
N-(2-Chloro-quinolin-5-yl)-4-fluoro-benzenesulfonamide (300 mg, 0.891 mmol) and (R)-1-aminoindane (254 mg, 1.91 mmol) were stirred in a sealed tube at 120° C. overnight. The reaction mixture was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->50:50 gradient). The title compound was obtained as a yellow solid (287 mg, 74%), MS:

reactant | N-(2-Chloro-quinolin-5-yl)-4-fluoro-benzenesulfonamide | 0.891 mmol, 300 mg | ClC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC=C(C=C1)F | C15H10ClFN2O2S
reactant | (R)-1-aminoindane | 1.91 mmol, 254 mg | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | 4-Fluoro-N-[2-((R)-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)N[C@@H]1CCC2=CC=CC=C12 | C24H20FN3O2S
